US07348359B2
N-iodosuccinimide (252 mg, 1.12 mmol) was added to a mixture of 3-imidazo[1,2-a]pyridin-6-yl-but-2-enoic acid methyl ester (220 mg, 1.02 mmol) in acetonitrile (10 mL) which had been cooled to 0° C. under nitrogen atmosphere. The mixture was stirred for 1 h, then diluted with ethyl acetate (30 mL) and washed with saturated sodium bicarbonate solution (2×10 mL), and brine (1×15 mL). The organic layers were combined, dried over MgSO4 and concentrated in vacuo. The residue was purified by chromatography (chromatotron, 4μ plate, 50% ethyl acetate in hexanes) to yield 3-(3-iodo-imidazo[1,2-a]pyridin-6-yl)-but-2-enoic acid methyl ester as a pale yellow solid (168.1 mg, 48%). 1H NMR (250 MHz, CDCl3): δ 8.27 (bs, 1H), 7.77 (s, 1H), 7.64 (d, 1H, J=9.4), 7.41 (dd, 1H, J=9.4, J=1.6), 6.27 (d, 1H, J=0.62), 3.84 (s, 3H), 2.68 (d, 3H, J=0.62). MS [EI+] 343 (M+H)+.

reactant | N-iodosuccinimide | 1.12 mmol, 252 mg | IN1C(CCC1=O)=O | C4H4INO2
reactant | 3-imidazo[1,2-a]pyridin-6-yl-but-2-enoic acid methyl ester | 1.02 mmol, 220 mg | COC(C=C(C)C=1C=CC=2N(C1)C=CN2)=O | C12H12N2O2
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
product | 3-(3-iodo-imidazo[1,2-a]pyridin-6-yl)-but-2-enoic acid methyl ester | 168.1 mg, 48% | COC(C=C(C)C=1C=CC=2N(C1)C(=CN2)I)=O | C12H11IN2O2
